US08431603B2
(1h) 3-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-7-nitrosopyrazolo[5,1-b][1,3]thiazole
A mixture of water and 5N hydrochloric acid (1:4, 70 mL) was added to 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazole (2.17 g, 6.47 mmol), and then sodium nitrite (1.06 g, 15.3 mmol) was added at 0° C. and the mixture was stirred for 1 hour. Aqueous 5N sodium hydroxide and ethyl acetate were added to the mixture at room temperature. After thoroughly shaking the mixture, the organic layer was separated and dried over anhydrous magnesium sulfate. The mixture was then filtered, and the solvent in the filtrate was distilled off under reduced pressure to obtain the title compound (2.34 g, 6.44 mmol).

reactant | hydrochloric acid | 5N, 70 mL | Cl | ClH
reactant | 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazole | 6.47 mmol, 2.17 g | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1)=CC(=N2)OC | C16H18N2O4S
reactant | sodium nitrite | 15.3 mmol, 1.06 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-7-nitrosopyrazolo[5,1-b][1,3]thiazole | 6.44 mmol, 2.34 g | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1)=C(C(=N2)OC)N=O | C16H17N3O5S
